US08466282B2
Tert-butyl (3S,5R)-3-[{[5-(bromomethyl)-1-(2-fluorophenyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate
To a solution (4 ml) of tert-butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(hydroxymethyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (410 mg) and triphenylphosphine (275 mg) in dichloromethane was added under ice-cooling carbon tetrabromide (350 mg), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (10:90-100:0) was concentrated under reduced pressure to give the object product (442 mg).

reactant | tert-butyl (3S,5R)-3-[{[1-(2-fluorophenyl)-5-(hydroxymethyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 4 ml, 410 mg | FC1=C(C=CC=C1)N1N=NC(=C1CO)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C29H41FN6O6
reactant | triphenylphosphine | 275 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 350 mg | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | ClCCl | CH2Cl2
product | Tert-butyl (3S,5R)-3-[{[5-(bromomethyl)-1-(2-fluorophenyl)-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 442 mg | BrCC1=C(N=NN1C1=C(C=CC=C1)F)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C | C29H40BrFN6O5
